US08685975B2
To a solution of methyl 2-(4-(1H-pyrazol-1-yl)phenyl)-2-methoxyacetic acid (0.18 g, 0.77 mmol) in dry dichloromethane (5 mL) under argon was added N-methylmorpholine (0.18 mL, 1.7 mmol). The reaction mixture was cooled to 0° C., isobutylchloroformate was added, (0.11 mL, 0.85 mmol) and the mixture was stirred for 40 minutes. N,O-dimethylhydroxylamine hydrochloride (0.098 g, 1 mmol) was then added in one portion and slowly allowed to warm to room temperature and stirred for 18 hours. The mixture was diluted with saturated aqueous NaHCO3 and extracted with EtOAc. The combined organics were washed with brine, dried over Na2SO4 and concentrated in vacuo. Purification by chromatography (0-80% EtOAc-hexanes) provided 2-(4-(1H-pyrazol-1-yl)phenyl)-N,2-dimethoxy-N-methylacetamide (0.16 g, 76% yield).

reactant | methyl 2-(4-(1H-pyrazol-1-yl)phenyl)-2-methoxyacetic acid | 0.77 mmol, 0.18 g | CC(C(=O)O)(OC)C1=CC=C(C=C1)N1N=CC=C1 | C13H14N2O3
reactant | N-methylmorpholine | 1.7 mmol, 0.18 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 1 mmol, 0.098 g | Cl.CNOC
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-(4-(1H-pyrazol-1-yl)phenyl)-N,2-dimethoxy-N-methylacetamide | 0.16 g, 76% yield | N1(N=CC=C1)C1=CC=C(C=C1)C(C(=O)N(C)OC)OC | C14H17N3O3
